US07504408B2
(3-Bromopropoxy)-tert-butyldimethylsilane (2.53 g, 0.01 mol) in THF (10 ml) was added dropwise at room temperature to a stirred mixture of tert-butyl 3-oxopiperazine-1-carboxylate (2.0 g, 0.01 mol), powdered potassium hydroxide (0.67 g, 0.012 mol) and tetra-n-butylammonium bromide (0.63 g, 0.002 mol) in THF (15 ml). The reaction was stirred 2 hr then filtered and evaporated. The residue was purified by column chromatography on silica using ethyl acetate as eluent to give tert-butyl 4-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)-3-oxopiperazine-1-carboxylate (2.98 g, 80%) as a colourless oil; NMR Spectrum:(CDCl3) 0.02 (s, 6H), 0.87 (s, 9H), 1.43 (s, 9H), 1.76 (quintet, 2H), 3.35 (m, 2H), 3.45 (t, 2H), 3.60 (m, 4H), 4.03 (s, 2H)

reactant | (3-Bromopropoxy)-tert-butyldimethylsilane | 0.01 mol, 2.53 g | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | tert-butyl 3-oxopiperazine-1-carboxylate | 0.01 mol, 2.0 g | O=C1CN(CCN1)C(=O)OC(C)(C)C | C9H16N2O3
reactant | potassium hydroxide | 0.012 mol, 0.67 g | [OH-].[K+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium bromide | 0.002 mol, 0.63 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)-3-oxopiperazine-1-carboxylate | 2.98 g, 80% | [Si](C)(C)(C(C)(C)C)OCCCN1C(CN(CC1)C(=O)OC(C)(C)C)=O | C18H36N2O4Si
